US04550103
A solution of 2-methyl-7-(phenylmethyl)-2,7-diazaspiro[4.4]nonane dihydrochloride in 150 ml of methanol with 1.0 g 20% palladium on carbon catalyst was hydrogenated at 50 psi for two days. After filtration, the filtrate was concentrated to a thick syrup which crystallized on addition of acetonitrile to give 11.50 g of 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride, softened at 164° C. and melted at 168°-170° C.

reactant | 2-methyl-7-(phenylmethyl)-2,7-diazaspiro[4.4]nonane dihydrochloride | Cl.Cl.CN1CC2(CC1)CN(CC2)CC2=CC=CC=C2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride | 11.50 g | Cl.Cl.CN1CC2(CC1)CNCC2 | InChI=1S/C8H16N2.2ClH/c1-10-5-3-8(7-10)2-4-9-6-8;;/h9H,2-7H2,1H3;2*1H
